US04835175
Under agitation, 26.3 g of oxalic acid diethyl ester and, 15 minutes later, a solution of 21.9 g of 3-benzyloxy-2-nitrotoluene in 30 ml of diethyl ether are added dropwise to a suspension of 9 g of potassium ethanolate in 200 ml of diethyl ether. The reaction mixture is heated for 20 hours under reflux; the thus-separated potassium salt of 3-benzyloxy-2-nitrophenylpyruvic acid ethyl ester is vacuum-filtered and washed with diethyl ether. The salt is then dissolved in a mixture of 200 ml of ethanol and 200 ml of concentrated acetic acid, the solution is combined with 50 g of powdered iron and heated under reflux for 90 minutes. The reaction mixture is allowed to cool, poured into 1 liter of ice water, filtered over kieselguhr, and the kieselguhr washed with diethyl ether. The organic phase is separated and the aqueous phase is extracted three times with diethyl ether. The combined organic phases are washed with saturated sodium carbonate solution, dried, and concentrated under vacuum. The residue is recrystallized from ethanol, thus obtaining 9.6 g of 7-benzyloxyindole-2-carboxylic acid ethyl ester, mp 82°-83° C.

reactant | oxalic acid diethyl ester | 26.3 g | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | 3-benzyloxy-2-nitrotoluene | 21.9 g | C(C1=CC=CC=C1)OC=1C(=C(C=CC1)C)[N+](=O)[O-] | C14H13NO3
reactant | potassium ethanolate | 9 g | C(C)[O-].[K+]
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 7-benzyloxyindole-2-carboxylic acid ethyl ester | 9.6 g | C(C)OC(=O)C=1NC2=C(C=CC=C2C1)OCC1=CC=CC=C1 | C18H17NO3
